US07528129B2
18a) methyl(S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(6-hydroxy-2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-4-oxo-butanoate
A solution of 1.37 g (4.04 mmol) 1-methyl(S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-succinate, 1.42 g (4.40 mmol) TBTU, 0.63 mL (4.50 mmol) triethylamine and 1.00 g (4.04 mmol) 6-hydroxy-3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one in 10 mL DMF was stirred for 3 h at RT. The reaction mixture was poured onto 300 mL saturated NaHCO3 solution, the precipitated substance was suction filtered, washed with 50 mL water and dried at 60° C. in the circulating air dryer.

reactant | 1-methyl(S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-succinate | 4.04 mmol, 1.37 g | NC1=C(C=C(C[C@H](C(=O)OC)CC(=O)[O-])C=C1C(F)(F)F)Cl
reactant | TBTU | 4.40 mmol, 1.42 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 4.50 mmol, 0.63 mL | C(C)N(CC)CC | C6H15N
reactant | 6-hydroxy-3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one | 4.04 mmol, 1.00 g | OC=1C=C2CN(C(NC2=CC1)=O)C1CCNCC1 | C13H17N3O2
reactant | NaHCO3 | 300 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl(S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(6-hydroxy-2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-4-oxo-butanoate | NC1=C(C=C(C[C@H](C(=O)OC)CC(=O)N2CCC(CC2)N2C(NC3=CC=C(C=C3C2)O)=O)C=C1C(F)(F)F)Cl | C26H28ClF3N4O5
